* C:\Users\m98sl\Python\2025-09-29__JWB\25-10-09__JWB__08-07-30\JWB_Analysis.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 SINE(0 1 100 0 0 0 100000) AC 1
C1 N010 0 0.022µ
R1 N004 N010 {RT}
R2 N004 N009 {RVb}
R3 N009 0 {RVa}
L13 N007 N001 2.924
R13 N008 N007 6.934k
R4 N004 N009 510k
C4 N004 N009 680p
R21 Amp-In N009 1
C22 0 Amp-In {C_C}
R8 Amp-In 0 1Meg
R12 N006 N005 6.579k
L12 N005 N001 2.649
C13 N008 0 4.99p
C12 N006 0 10p
R11 N003 N002 6.595k
L11 N002 N001 2.635
C11 N003 0 6.21p
S1 N003 N004 S1 0 Sel
S2 N006 N004 S2 0 Sel
S3 N008 N004 S3 0 Sel
V2 S1 0 5
V3 S2 0 0
V4 S3 0 5
.ac oct 100 10 50k
* Cable Simulation(typ: MOGAMI 2524 5m)
.param x=32
;param RVa=Rx*(x**k-1)/(x-1)+50m
.step param k 0.1 1 0.1
.param Rx=250k
.param RVb=Rx-RVa+100m
* Bridge
* Middle
.param RVa=Rx
.param C_C=650p
.param RT=Rx*(x**k-1)/(x-1)+50m
;param RT=250k
* Neck
.model Sel SW(Ron=1u Vt=2.5)
* Tone
* Volume
.backanno
.end
